US07612114B2
6-{2-{{4-[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)ethoxy]benzyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (26 mg) and 2-chloro-1-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)ethanone (23 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (5.6 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 26 mg | C(C)N(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 2-chloro-1-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)ethanone | 23 mg | ClCC(=O)N1CCC2(OCCO2)CC1 | C9H14ClNO3
product | 6-{2-{{4-[2-(1,4-Dioxa-8-azaspiro[4.5]dec-8-yl)ethoxy]benzyl}ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 5.6 mg | O1CCOC12CCN(CC2)CCOC2=CC=C(CCCNC1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)O)C=C2 | C35H44N2O5
